US06683201B2
A solution of 30.3 g (80.5 mmol) of {4-[6-(Allyl-methyl-amino)-hexyloxy]-phenyl}-methyl-carbamic acid tert-butyl ester in 160 ml CH2Cl2 was treated at −20° C. with 180 ml TFA and warmed up to room temperature during 5 h. The reaction mixture was evaporated, treated with aqueous saturated NaHCO3 solution/Et2O (3×), dried (Na2SO4) and evaporated to yield {4-[6-(Allyl-methyl-amino)-hexyloxy]-phenyl}-methyl-amine, MS: 277 (MH+).

reactant | {4-[6-(Allyl-methyl-amino)-hexyloxy]-phenyl}-methyl-carbamic acid tert-butyl ester | 80.5 mmol, 30.3 g | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)OCCCCCCN(C)CC=C)=O | C22H36N2O3
reactant | TFA | 180 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 160 ml | C(Cl)Cl | CH2Cl2
product | {4-[6-(Allyl-methyl-amino)-hexyloxy]-phenyl}-methyl-amine | C(C=C)N(CCCCCCOC1=CC=C(C=C1)NC)C | C17H28N2O
